US07153878B2
3-(4-{2-[5-Ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-propionylamino}-2-methyl-phenyl)-propionic-acid methyl ester
To a mixture of 2-[5-Ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-propionic acid (0.35 mmol), 3-(4-Amino-2-methyl-phenyl)-propionic acid methyl ester (0.35 mmol), and DMAP (0.01 g, 0.082 mmol) in CH2Cl2 (5 mL) is added EDCI (0.08 g, 0.42 mmol). After stirring for 2 h at RT, the mixture is concentrated. The residue is redissolved in EtOAc, and the organics are washed with 1N HCl (1×), 2N NaOH (2×), water, and brine, and dried with MgSO4. The crude material is purified by flash chromatography to yield the title compound.

reactant | 2-[5-Ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-propionic acid | 0.35 mmol | C(C)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)O)C | C15H14F3NO2S
reactant | 3-(4-Amino-2-methyl-phenyl)-propionic acid methyl ester | 0.35 mmol | COC(CCC1=C(C=C(C=C1)N)C)=O | C11H15NO2
reactant | EDCI | 0.42 mmol, 0.08 g | CCN=C=NCCCN(C)C | C8H17N3
catalyst | DMAP | 0.082 mmol, 0.01 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-{2-[5-Ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-propionylamino}-2-methyl-phenyl)-propionic-acid methyl ester | COC(CCC1=C(C=C(C=C1)NC(C(C)C=1N=C(SC1CC)C1=CC=C(C=C1)C(F)(F)F)=O)C)=O | C26H27F3N2O3S
